* Extracted by KLayout with GF180MCU LVS runset on : 02/09/2026 11:57

.SUBCKT B04_coupling Vin Vout VDD05
C$1 Vout Vin 4e-12 cap_mim_2f0fF A=2000P P=800U
M$21 VDD05 Vout Vout VDD05 pfet_03v3 L=4U W=0.5U AS=0.22P AD=0.22P PS=1.88U
+ PD=1.88U
M$22 VDD05 VDD05 Vout Vout pfet_03v3 L=4U W=0.5U AS=0.22P AD=0.22P PS=1.88U
+ PD=1.88U
.ENDS B04_coupling
